US05116405
A dry dioxane (10 ml) solution containing methyl N-(3-trifluoromethylpyridine-2-sulfonyl)carbamate (0.43 g, 1.5 mmol), 3,5-dimethyl-5-phenyl-2-pyrazoline (0.52 g, 3.0 mmol) and pyridine (0.45 g) was refluxed under heating and stirring for one hour. After cooling the mixture, the solvent was distilled off under reduced pressure, and the residue was stirred together with ethyl ether. Precipitated crystals were collected by filtration and then thoroughly washed with ethyl ether, and the crystals were suspended in 20 ml of water. Then, the pH was adjusted to a level of from 1 to 2 with concentrated hydrochloric acid, and the suspension was stirred at room temperature for 5 minutes. Crystals were collected by filtration, thoroughly washed with water and then with ethyl ether and dried to obtain 0.55 g of desired 1-(3-trifluoromethylpyridine-2-sulfonylcarbamoyl)-3,5-dimethyl-5-phenyl-2-pyrazoline. Melting point: 152°-153° C.

reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | methyl N-(3-trifluoromethylpyridine-2-sulfonyl)carbamate | 1.5 mmol, 0.43 g | FC(C=1C(=NC=CC1)S(=O)(=O)NC(OC)=O)(F)F | C8H7F3N2O4S
reactant | 3,5-dimethyl-5-phenyl-2-pyrazoline | 3.0 mmol, 0.52 g | CC1=NNC(C1)(C1=CC=CC=C1)C | C11H14N2
solvent | pyridine | 0.45 g | N1=CC=CC=C1 | C5H5N
product | 1-(3-trifluoromethylpyridine-2-sulfonylcarbamoyl)-3,5-dimethyl-5-phenyl-2-pyrazoline | 0.55 g | FC(C=1C(=NC=CC1)S(=O)(=O)NC(=O)N1N=C(CC1(C1=CC=CC=C1)C)C)(F)F | C18H17F3N4O3S
